US06555541B1
d) 2-(3-Chloro-4-fluorophenylamino-N-{2-methyl-5-[3-(4methylpiperazin-1yl)-propoxyl]phenyl}acetamide
To a solution of 2-(3-chloro-4-fluoro-phenylamino)-N-(5-hydroxy-2-methyl-phenyl)-acetamide (0.400 g) and 4-methyl-1-piperazinepropanol (0.270 g) in tetrahydrofuran (20 ml) under a nitrogen atmosphere was added tributylphosphine (0.64 ml) and 1,1′-(azodicarbonyl)dipiperidine (0.656 g) and the mixture stirred at ambient temperature for 20 hours. The reaction mixture was poured into diethylether and filtered through Celite. After concentration, the residue was purified by NPHPLC (eluting with 75% ethanol in dichloromethane) to afford the title compound (0.334 g).

reactant | 2-(3-chloro-4-fluoro-phenylamino)-N-(5-hydroxy-2-methyl-phenyl)-acetamide | 0.400 g | ClC=1C=C(C=CC1F)NCC(=O)NC1=C(C=CC(=C1)O)C | C15H14ClFN2O2
reactant | 4-methyl-1-piperazinepropanol | 0.270 g | CN1CCN(CC1)CCCO | C8H18N2O
reactant | tributylphosphine | 0.64 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.656 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | 3-Chloro-4-fluorophenylamino-N-{2-methyl-5-[3-(4methylpiperazin-1yl)-propoxyl]phenyl}acetamide | 0.334 g | ClC=1C=C(C=CC1F)NCC(=O)NC1=C(C=CC(=C1)OCCCN1CCN(CC1)C)C | C23H30ClFN4O2
